US05565446
A. Methyl 3-(Cyanomethoxy)-5-methoxy-1-methyl-1H-indole-2-carboxylate
A suspension of potassium tert-butoxide (3.2 g, 29 mmol) in 60 mL of dimethyl sulfoxide is treated in portions with methyl 3-hydroxy-5-methoxy-1-methyl-1H-indole-2-carboxylate (5.6 g, 24 mmol; Unangst P. C., et al., J. Heterocyclic Chem., 24:811 (1987)). The mixture is stirred for 15 minutes, and chloroacetonitrile (4.8 mL, 5.7 g, 76 mmol) is added dropwise. The mixture is heated at 80° for 90 minutes, cooled, and added to 800 g of ice and water. The precipitated solid is filtered, washed with 10% methanol-water, and recrystallized from aqueous acetonitrile to give 3.9 g (60%) of product; mp 136°-137° C.

reactant | potassium tert-butoxide | 29 mmol, 3.2 g | CC(C)([O-])C.[K+]
reactant | methyl 3-hydroxy-5-methoxy-1-methyl-1H-indole-2-carboxylate | 24 mmol, 5.6 g | OC1=C(N(C2=CC=C(C=C12)OC)C)C(=O)OC | C12H13NO4
reactant | chloroacetonitrile | 76 mmol, 4.8 mL, 5.7 g | ClCC#N | C2H2ClN
reactant | water | O | H2O
solvent | dimethyl sulfoxide | 60 mL | CS(=O)C | C2H6OS
product | Methyl 3-(Cyanomethoxy)-5-methoxy-1-methyl-1H-indole-2-carboxylate | 3.9 g, 60% | C(#N)COC1=C(N(C2=CC=C(C=C12)OC)C)C(=O)OC | C14H14N2O4
